US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(2-imidazolin-2-yl)-4-trifluoromethylsulfinylpyrazole (Compound No. 3-1)
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-pyrazole (0.81 g, 1.85 mmol) was dissolved in 8 ml of THF, and then ethylenediamine (0.40 ml, 5.98 mmol) was added. The mixture was stirred at room temperature for 1 hour, heated to 50° C. and then stirred for 24 hours. Then, ethylenediamine (0.40 ml, 5.98 mmol) and THF (3 ml) were further added, followed by stirring for 14 hours. After the completion of the reaction, 20 ml of water was added and THF was distilled off and, further, 10 ml of water and 20 ml of an aqueous saturated sodium chloride solution were added. The mixture was extracted twice with 40 ml of ethyl acetate and the ethyl acetate layer was washed twice with 30 ml of an aqueous saturated sodium chloride solution. The resultant was dried over anhydrous magnesium sulfate and then concentrated to obtain a yellow amorphous. The amorphous was subjected to silica gel column chromatography [eluent: mixed solvent of ethyl acetate and hexane (volume ratio=1:2)] to obtain 0.34 g (0.71 mmol) of the title compound as a pale yellow amorphous. Yield 38%.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-pyrazole | 1.85 mmol, 0.81 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
reactant | ethylenediamine | 5.98 mmol, 0.40 ml | C(CN)N | C2H8N2
reactant | ethylenediamine | 5.98 mmol, 0.40 ml | C(CN)N | C2H8N2
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(2-imidazolin-2-yl)-4-trifluoromethylsulfinylpyrazole | 0.71 mmol, 0.34 g, Yield 38% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=1NCCN1)S(=O)C(F)(F)F | C14H9Cl2F6N5OS
